US03957833
By utilizing the procedure of Example 5, by reacting 5-bromovanillic acid with propargyl bromide, there is obtained 5-bromovanillic acid propargyl ester; M.P. 121-122°C.

reactant | 5-bromovanillic acid | BrC=1C(=C(C=C(C(=O)O)C1)OC)O | C8H7BrO4
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | 5-bromovanillic acid propargyl ester | C(C#C)OC(C1=CC(OC)=C(O)C(=C1)Br)=O | C11H9BrO4
